* source Q3
I_I1         0 N00156 DC 3Adc  
R_R1         N00156 N00259  4 TC=0,0 
R_R2         0 N00156  16 TC=0,0 
R_R3         N00259 N00274  1 TC=0,0 
R_R4         N00215 N00259  5 TC=0,0 
R_R5         0 N00274  10 TC=0,0 
V_V1         N00215 0 12Vdc
