* source Q5
R_R1         N00122 N00129  4 TC=0,0 
C_C1         0 N00129  2  TC=0,0 
V_V1         N00122 0  
+PULSE 0 20 100m 10m 1 120 240
R_R2         N01503 N00129  1 TC=0,0 
X_U1         N01503 0 Sw_tOpen PARAMS: tOpen=60 ttran=1u Rclosed=0.01
+  Ropen=1Meg
