* source Q6_1
R_R1         N00144 N00165  3 TC=0,0 
R_R2         N00165 N00171  2 TC=0,0 
V_V1         N00144 0  
+PULSE 0 25 100m 10m 1 16 32
L_L1         N00171 0  4H  TC=0,0 
X_U1         N00165 0 Sw_tClose PARAMS: tClose=8 ttran=1u Rclosed=0.01
+  Ropen=1Meg
