* source Q2
R_R1         N00172 N00181  2.5 TC=0,0 
R_R2         N00181 N00216  6 TC=0,0 
R_R3         0 N00181  15 TC=0,0 
R_R4         0 N00216  20 TC=0,0 
R_R5         N00181 0  60 TC=0,0 
R_R6         N00216 0  80 TC=0,0 
R_R7         N00181 N00216  12 TC=0,0 
V_V1         N00172 0 1Vdc
