* source Q1_ASSIGNMENT
R_R1         N00128 N00115  70 TC=0,0 
R_R2         0 N00128  20 TC=0,0 
R_R3         N00128 N00115  30 TC=0,0 
R_R4         0 N00128  5 TC=0,0 
V_V1         N00115 0 200Vdc
